US06706663B2
Preparation of 3-[3-(3,4-Dihydro-3-oxo-2-quinoxalinyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil
A mixture of methyl 5-[3-,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-glyoxylate (0.7500 g, 1.81 mmol), 1,2-diaminobenzene (0.200 g, 1.84 mmol) and ethanol is stirred 16 hours at reflux and filtered hot. The filtrate is concentrated in vacuo to afford the title compound as a light yellow solid (0.480 g, 56.3%, mp >250° C.) which is identified by NMR analysis.

reactant | methyl 5-[3-,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-glyoxylate | 1.81 mmol, 0.7500 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C(C(=O)OC)=O)C1)=O | C16H10F3N3O5S
reactant | 1,2-diaminobenzene | 1.84 mmol, 0.200 g | NC1=C(C=CC=C1)N | C6H8N2
solvent | ethanol | C(C)O | C2H6O
product | 3-[3-(3,4-Dihydro-3-oxo-2-quinoxalinyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)uracil | 0.480 g, 56.3% | O=C1C(=NC2=CC=CC=C2N1)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C21H12F3N5O3S
